US04710573
3-(1-Methyl-4-piperidinyl)-1H-indazole
An autoclave was charged with 10.0 g of 4-(2-fluorobenzoyl)-1-methylpiperidine and 14 ml of hydrazine hydrate. The reaction was heated at 150° for 20 hrs, cooled, and poured into water. The resultant solid was collected. The solid was recrystallized twice from toluene to yield 2.4 g (23.7%) of product, mp 168°-170° C.

reactant | 4-(2-fluorobenzoyl)-1-methylpiperidine | 10.0 g | FC1=C(C(=O)C2CCN(CC2)C)C=CC=C1 | C13H16FNO
reactant | hydrazine hydrate | 14 ml | O.NN
solvent | water | O | H2O
product | 3-(1-Methyl-4-piperidinyl)-1H-indazole | 2.4 g, 23.7% | CN1CCC(CC1)C1=NNC2=CC=CC=C12 | C13H17N3
